US09056843B2
N-Methyl-4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzamide
4-(N-hydroxycarbamimidoyl)-N-methyl-benzamide (100 mg, 0.518 mmol) was dissolved in pyridine (1 ml). TFAA (0.086 ml, 0.621 mmol) was added and the reaction mixture was stirred at 75° C. for 3 h. After 3 h, another 0.040 mL TFAA was added and heating was continued for 2 h. The reaction mixture was diluted with 25 mL EtOAc and 5 mL water; no phase separation. 20 pipette drops of 0.1 M HCl were added. The phases were separated and the organic phase was washed with 5 mL of water, then 5 mL of brine. Drying over Na2SO4 gave the crude product. The crude product was subjected to purification by reverse phase prep-HPLC (gradient elution, water/ACN both containing 0.1% TFA). Fractions containing the desired compound were combined and freeze-dried to yield 49 mg as white powder.

reactant | 4-(N-hydroxycarbamimidoyl)-N-methyl-benzamide | 0.518 mmol, 100 mg | ONC(=N)C1=CC=C(C(=O)NC)C=C1 | C9H11N3O2
reactant | TFAA | 0.621 mmol, 0.086 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | TFAA | 0.040 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | water | 5 mL | O | H2O
product | N-Methyl-4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzamide | CNC(C1=CC=C(C=C1)C1=NOC(=N1)C(F)(F)F)=O | C11H8F3N3O2
